US07759337B2
Step 7: N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine
1,8-Diazabicyclo(5.4.0)-7-undecene (0.25 mL, 1.65 mmol) was added to N-cyclopropyl-2-fluoro-N′-hydroxy-3-iodo-4-methylbenzamidine (500 mg, 1.5 mmol) in anhydrous THF (2.0 mL) then heated in a microwave at 150° C. for 70 min. The solvents were evaporated and the residue was loaded on an ISCO column (40 g, eluted with 25-75% ethyl acetate in Hexanes) to provide the title compound as an off-white crystalline solid. MS (ESI, pos. ion) m/z: 315.0 (M+1).

reactant | N-cyclopropyl-2-fluoro-N′-hydroxy-3-iodo-4-methylbenzamidine | 1.5 mmol, 500 mg | C1(CC1)NC(C1=C(C(=C(C=C1)C)I)F)=NO | C11H12FIN2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine | C1(CC1)NC1=NOC2=C1C=CC(=C2I)C | C11H11IN2O
